US06228859B1
C. 6-Amino-3-(3-(3-hydroxycyclopentyloxy)-4-methoxy-benzyl)-8-isopropyl-3H-purine hydrochloride
A solution of 6-amino-3-(3-hydroxy-4-methoxy-benzyl)-8-isopropyl-3H-purine hydrochloride (2.45 g, 7.0 mmole) in DMF (25 ml) was treated with potassium carbonate (5.80 g, 42 mmol), the mixture stirred at room temperature for 1 hour, then crude cis/trans-3-bromocyclopentanol (3.47 g, 21 mmole) was added. After 21 hours a second batch of potassium carbonate (2.90 g, 21 mmole) and 3-bromocyclopentanol (3.47 g, 21 mmole) were added. After stirring for 6 days the solid was filtered off and the solvent evaporated to dryness in vacuo. The residue was dissolved in chloroform (50 ml), extracted with IM NaOH solution and again evaporated in vacuo. The residue (5.84 g) was dissolved in dichloromethane:methanol, 98:2 (50 ml) and purified by column chromatography on silicagel, eluting with a gradient of 2-10% of methanol in dichloromethane. The fractions were collected (0.78 g; 28.0%), converted to the HCl salt and crystallized from acetone to give the title compound, (0.55 g, 18.1%), mp 185-187° C.

reactant | 6-amino-3-(3-hydroxy-4-methoxy-benzyl)-8-isopropyl-3H-purine hydrochloride | 7.0 mmole, 2.45 g | Cl.NC1=C2N=C(N=C2N(C=N1)CC1=CC(=C(C=C1)OC)O)C(C)C
reactant | potassium carbonate | 42 mmol, 5.80 g | C([O-])([O-])=O.[K+].[K+]
reactant | trans-3-bromocyclopentanol | 21 mmole, 3.47 g | Br[C@@H]1C[C@H](CC1)O | C5H9BrO
reactant | potassium carbonate | 21 mmole, 2.90 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3-bromocyclopentanol | 21 mmole, 3.47 g | BrC1CC(CC1)O | C5H9BrO
solvent | DMF | 25 ml | CN(C)C=O | C3H7NO
product | 6-Amino-3-(3-(3-hydroxycyclopentyloxy)-4-methoxy-benzyl)-8-isopropyl-3H-purine hydrochloride | 0.55 g, 18.1% | Cl.NC1=C2N=C(N=C2N(C=N1)CC1=CC(=C(C=C1)OC)OC1CC(CC1)O)C(C)C | InChI=1S/C21H27N5O3.ClH/c1-12(2)20-24-18-19(22)23-11-26(21(18)25-20)10-13-4-7-16(28-3)17(8-13)29-15-6-5-14(27)9-15;/h4,7-8,11-12,14-15,27H,5-6,9-10,22H2,1-3H3;1H
